US05278148
3.2 g of a 55% sodium hydride dispersion in oil were washed with hexane and covered with 190 ml of dimethylformamide. Thereafter, 19.0 g (61.6 mmol) of t-butyl [4-(2-ethoxyethoxy)phenethyl]carbamate in solid form were added while cooling with ice and stirring, the reaction mixture was stirred at room temperature for 15 minutes and subsequently treated dropwise with 5.7 ml of methyl iodide in 10 ml of dimethylformamide within 5 minutes. After completion of the addition the reaction mixture was stirred at room temperature for 18 hours and subsequently poured into ice-water and extracted with methylene chloride. The methylene chloride extracts were dried over magnesium sulfate and evaporated under reduced pressure, and the residue was chromatographed on 240 g of silica gel with a mixture of hexane and ethyl acetate as the eluting agent, whereby 19.5 g of t-butyl [4-(2-ethoxyethoxy) phenethyl]-methylcarbamate were obtained as an oil which was used directly in the next step.

reactant | t-butyl [4-(2-ethoxyethoxy)phenethyl]carbamate | 61.6 mmol, 19.0 g | C(C)OCCOC1=CC=C(CCNC(OC(C)(C)C)=O)C=C1 | C17H27NO4
reactant | methyl iodide | 5.7 ml | CI | CH3I
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | t-butyl [4-(2-ethoxyethoxy) phenethyl]-methylcarbamate | 19.5 g | C(C)OCCOC1=CC=C(CCN(C(OC(C)(C)C)=O)C)C=C1 | C18H29NO4
